US05478820
A vigorously stirred slurry of nitrosonium tetrafluoroborate (3.53 g, 30.2 mM) in acetonitrile (50 ml) under an atmosphere of argon was cooled in an ice bath, and 3-amino-5-nitrobenzoic acid (5.0 g, 27.5 mM) was added in three portions. The temperature was then allowed to rise to ambient, and the mixture was stirred for 48 hours. 1,2-Dichlorobenzene (50 ml) was added, and acetonitrile distilled from the mixture at reduced pressure. The mixture was then heated to 170° for 30 minutes, when gas evolution had ended. After cooling, the mix was poured into dichloromethane (200 ml), and extracted with NaHCO3 solution. After back washing the aqueous phase with dichloromethane, it was acidified (2M hydrochloric acid), and organics extracted with ethyl acetate (2×100 ml). The combined organic layers were washed with brine, and dried over MgSO4. Crude product was purified by chromatography on silica, eluting with a gradient from dichloromethane/acetic acid (99:i) to dichloromethane/isopropanol/acetic acid (80:20:1), to give 3-fluoro-5-nitrobenzoic acid (3.26 g, 64%). Nmr (DMSO-d6): δ8.14 (dm, 1H); 8.37 (dt, 1H); 8.46 (m, 1H).

reactant | nitrosonium tetrafluoroborate | 30.2 mM, 3.53 g | F[B-](F)(F)F.N#[O+]
reactant | 3-amino-5-nitrobenzoic acid | 27.5 mM, 5.0 g | NC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H6N2O4
reactant | 1,2-Dichlorobenzene | 50 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-fluoro-5-nitrobenzoic acid | 3.26 g, 64% | FC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4FNO4
